US07759373B2
To a solution of 2-chloro-5-(formylaminoacetyl)thiophene (20.1 g) in N,N-dimethylformamide (400 ml) was added sodium hydride (4.44 g, 60% mineral oil) under ice-cooling, and the mixture was stirred under argon atmosphere at room temperature for one hour. After ice-cooling, to the mixture was added dropwise ethyl bromoacetate (20.8 g), and the mixture was stirred at room temperature for 2 hours. After cooling, ice was added to the reaction mixture, and then water and ethyl acetate were also added to the mixture. The organic layer was collected washed with water and brine, dried over anhydrous sodium sulfate and the solvent was removed under reduced pressure. The resulting residue was purified by silica gel column chromatography (solvent: n-hexane:ethyl acetate=6:1) to obtain ethyl 4-(5-chlorothiophen-2-yl)-3-formylamino-4-oxobutyrate (17.8 g) as yellowish oil.

reactant | 2-chloro-5-(formylaminoacetyl)thiophene | 20.1 g | ClC=1SC(=CC1)C(CNC=O)=O | C7H6ClNO2S
reactant | sodium hydride | 4.44 g | [H-].[Na+]
reactant | ethyl bromoacetate | 20.8 g | BrCC(=O)OCC | C4H7BrO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 4-(5-chlorothiophen-2-yl)-3-formylamino-4-oxobutyrate | 17.8 g | ClC1=CC=C(S1)C(C(CC(=O)OCC)NC=O)=O | C11H12ClNO4S
